US07598391B2
3-[2-(3-Cyclobutyl-3-cycloheptyl-ureido)-thiazol-5-ylsulfanyl]-propionic acid
[2-(3-Cycloheptyl-3-cyclobutyl-ureido)-thiazol-5-ylsulfanyl]-propionic acid ethyl ester prepared as described in general procedure (A) using cycloheptyl-cyclobutylamine and 5-aminothiazole-2-mercaptoacetic acid ethyl ester. Hydrolysis using general procedure (F) gave the title compound

reactant | [2-(3-Cycloheptyl-3-cyclobutyl-ureido)-thiazol-5-ylsulfanyl]-propionic acid ethyl ester | C(C)OC(C(C)SC1=CN=C(S1)NC(=O)N(C1CCC1)C1CCCCCC1)=O | C20H31N3O3S2
reactant | cycloheptyl-cyclobutylamine | C1(CCCCCC1)NC1CCC1 | C11H21N
reactant | 5-aminothiazole 2-mercaptoacetic acid ethyl ester | NC1=CN=CS1.C(C)OC(CS)=O
product | 3-[2-(3-Cyclobutyl-3-cycloheptyl-ureido)-thiazol-5-ylsulfanyl]-propionic acid | C1(CCC1)N(C(NC=1SC(=CN1)SCCC(=O)O)=O)C1CCCCCC1 | C18H27N3O3S2
